data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(OC1F)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2F"}, {"reactants": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2F.[O-]C", "products": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2F"}, {"reactants": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2F", "products": "COC12OC(OC1F)C1C(=O)C12"}, {"reactants": "COC12OC(OC1F)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(F)C(OC)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(F)C(OC)(O3)C21.CO", "products": "COC(=O)C1CC2(OC)OC1OC2F"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CCC(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CCC(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CCC(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CCC(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CCC(Cl)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(c(F)c([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Cl)c(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Cl)c(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2ccc(Cl)c(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(F)COC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(F)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OCC2(F)O3)cc1", "products": "CC12OCC(F)(O1)C1C(=O)C12"}, {"reactants": "CC12OCC(F)(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C1C1(C)OCC2(F)O1"}, {"reactants": "COC1([O-])C2C1C1(C)OCC2(F)O1.CO", "products": "COC(=O)C1CC2(F)COC1(C)O2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CF)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)CF)c4Cl)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CF)c([Si](C)(C)C)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)CF)cc1=C", "products": "Cc1c2c(cc([Si](C)(C)CF)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "CCOC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1.C=O", "products": "CCOC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1"}, {"reactants": "CCOC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1", "products": "CCOC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1"}, {"reactants": "CCOC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1", "products": "C=[N+](O)[C@@H]1C[C@H](COCC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](COCC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](COCC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](COCC)C[C@H]2CC=CC[C@H]21", "products": "CCOC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)CC1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)CC1(Cl)CC(C(=O)OC)C(=O)C2"}]}
